US05530015
Then, 0.85 g of 2,6-dichloro-4-benzyloxyphenol, 0.48 g of potassium carbonate, 0.75 g of 2,3-dichloro-5-trifluoromethylpyridine and 10 ml of N,N-dimethylformamide were charged into a reaction vessel, and stirred at 85 to 90° C. for 3 hours. Then, the reaction solution was cooled to room temperature, poured into water and extracted twice with 50 ml of diethyl ether. The ether layers were combined, washed with water, dried over anhydrous magnesium sulfate and then concentrated to give a crude product. This crude product was subjected to silica gel chromatography to give 1.39 g of 3,5-dichloro-4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)-1-benzyloxybenzene (yield, 98%).

reactant | 2,6-dichloro-4-benzyloxyphenol | 0.85 g | ClC1=C(C(=CC(=C1)OCC1=CC=CC=C1)Cl)O | C13H10Cl2O2
reactant | potassium carbonate | 0.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 0.75 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,5-dichloro-4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)-1-benzyloxybenzene | 1.39 g, 98% | ClC=1C=C(C=C(C1OC1=NC=C(C=C1Cl)C(F)(F)F)Cl)OCC1=CC=CC=C1 | C19H11Cl3F3NO2
